US05536737
c) (S)-2-[[(S)-2-(1,3-Dihydroxypropyl)-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide
Lithium chloride (0.678 g) and sodium borohydride (0.605 g) were added to a solution of (S)-2-[[(S)-2-[2-(ethoxycarbonyl)1-hydroxyethyl]-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide (3.36 g) in THF-ethanol (1:1, 50 ml), under ice-cooling, and the mixture was stirred at room temperature overnight. The reaction mixture was filtered with suction, and the filtrate was concentrated. The residue was dissolved in chloroform, and poured into ice water for separation. The aqueous layer was saturated with sodium chloride and extracted with chloroform. The combined organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was subjected to silica gel column chromatography (eluent: chloroform-methanol) to give the title compound (2.50 g).

reactant | Lithium chloride | 0.678 g | [Cl-].[Li+]
reactant | sodium borohydride | 0.605 g | [BH4-].[Na+]
reactant | (S)-2-[[(S)-2-[2-(ethoxycarbonyl)1-hydroxyethyl]-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide | 3.36 g | C(C)OC(=O)CC(O)[C@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(=O)NCC1=CC=CC=C1 | C22H31N3O5
solvent | THF ethanol | 50 ml | C1CCOC1.C(C)O
product | (S)-2-[[(S)-2-(1,3-Dihydroxypropyl)-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide | 2.50 g | OC(CCO)[C@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(=O)NCC1=CC=CC=C1 | C20H29N3O4
